US05230827
2,3-Difluoro-4-pentylbenzoic acid is obtained by reacting o-difluorobenzene with butyllithium in the presence of potassium tertiary-butoxide at -90° to -100° in tetrahydrofuran, alkylating the potassium compound formed using pentyl bromide/1,3-dimethyltetrahydro-2-(1H)-pyrimidinone (DMPU), isolating the 2,3-difluoropentylbenzene, re-metallating by means of butyllithium and subsequently reacting with solid carbon dioxide. Esterification of this acid using trans-4-pentylcyclohexanol gives trans-4-pentylcyclohexyl 2,3-difluoro-4-pentylbenzoate.

reactant | o-difluorobenzene | FC1=C(C=CC=C1)F | C6H4F2
reactant | butyllithium | C(CCC)[Li]
reactant | potassium tertiary-butoxide | CC(C)([O-])C.[K+]
reactant | potassium | [K] | K
reactant | pentyl bromide 1,3-dimethyltetrahydro-2-(1H)-pyrimidinone | C(CCCC)Br.CN1C(N(CCC1)C)=O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,3-difluoropentylbenzene | FC(CC1=CC=CC=C1)C(CC)F | C11H14F2
